US08258160B2
Synthesis of 2-(4-benzoyl-1H-1,2,3-triazol-1-yl)-N-benzyl-4-methylthiazole-5-carboxamide
A solution of N-benzyl-2-(4-(hydroxy(phenyl)methyl)-1H-1,2,3-triazol-1-yl)-4-methylthiazole-5-carboxamide (0.18 g, 0.44 mmol) and Dess-Martin periodinane (0.28 g, 0.67 mmol) in dichloromethane (20 mL) was stirred at ambient temperature for 3 hours and washed with 10% aqueous solution of sodium thiosulfate (20 mL) and saturated aqueous sodium bicarbonate (20 mL). The organic layer was dried over anhydrous sodium sulphate, filtered and concentrated in vacuo. The residue was purified by column chromatography to yield the title compound as a white solid in 53% yield: mp 176-178° C. (dichloromethane/hexanes); 1H NMR (300 MHz, DMSO-d6) δ 9.48 (s, 1H), 9.06 (t, J=6.0 Hz, 1H), 8.22 (d, J=6.0 Hz, 2H), 7.77-7.75 (m, 1H), 7.62 (t, J=6.0 Hz, 2H), 7.39-7.25 (m, 5H), 4.47 (d, J=6.0 Hz, 2H), 2.65 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 184.5, 160.0, 154.0, 152.6, 146.9, 138.9, 136.1, 133.7, 129.9, 128.7, 128.3, 127.3, 126.9, 126.8, 125.7, 42.8, 17.1; MS (ES+) m/z 404.3 (M+1).

reactant | N-benzyl-2-(4-(hydroxy(phenyl)methyl)-1H-1,2,3-triazol-1-yl)-4-methylthiazole-5-carboxamide | 0.44 mmol, 0.18 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1N=NC(=C1)C(C1=CC=CC=C1)O)C | C21H19N5O2S
reactant | Dess-Martin periodinane | 0.67 mmol, 0.28 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-(4-benzoyl-1H-1,2,3-triazol-1-yl)-N-benzyl-4-methylthiazole-5-carboxamide | 53% yield | C(C1=CC=CC=C1)(=O)C=1N=NN(C1)C=1SC(=C(N1)C)C(=O)NCC1=CC=CC=C1 | C21H17N5O2S
